US06200988B1
1.27 (9H, s, —C(CH3)3), 2.26, 2.30, 2.40 (9H, s×3, —CH3×2, >NCOCH3), 3.00 (2H, br, Indoline C3—H), 3.66 (2H, s, —CH2CN), 4.05 (2H, br, Indoline C2—H), 9.21 (1H, br, >NH). (4) N-(1-Acetyl-5-cyanomethyl-4,6-dimethylindolin-7-yl)-2,2-dimethyl-propanamide (5.0 g) was suspended in n-PrOH (25 ml) and a solution of NaOH (9.6 g) in water (10 ml) was added, which was followed by stirring at 90° C. for 8 hr in an autoclave under a nitrogen atmosphere. The aqueous layer was separated, and the organic layer was neutralized with 2N-hydrochloric acid. The solvent was evaporated under reduced pressure. The residue was suspended in ETOH (200 ml), and ION HCl-EtOH (7.2 ml) was added, which was followed by refluxing for 1 hr. EtOH was evaporated under reduced pressure, and the mixture was neutralized with saturated aqueous solution of sodium hydrogencarbonate and extracted with AcOEt (200 ml). The AcOEt layer was washed with water and dried over anhydrous sodium sulfate. AcOEt was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent: CHCl3/MeOH=1/0−20/1) to give 3.0 g of N-(5-ethoxycarbonylmethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide.

reactant | NCOCH3 | C(#N)OC | C2H3NO
reactant | Indoline | N1CCC2=CC=CC=C12 | C8H9N
reactant | N-(1-Acetyl-5-cyanomethyl-4,6-dimethylindolin-7-yl)-2,2-dimethyl-propanamide | 5.0 g | C(C)(=O)N1CCC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)CC#N)C | C19H25N3O2
reactant | NaOH | 9.6 g | [OH-].[Na+]
solvent | n-PrOH | 25 ml | C(CC)O | C3H8O
solvent | water | 10 ml | O | H2O
product | N-(5-ethoxycarbonylmethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 3.0 g | C(C)OC(=O)CC=1C(=C2CCNC2=C(C1C)NC(C(C)(C)C)=O)C | C19H28N2O3
